US07423057B2
Synthesis of 2,5-dihydro furan 3,4-dicarboxylic acid
The standard assay mixture contained 50 μM decyclo ubichinone, 100 μM dihydroorotate, 60 μM 2,6-dichloroindophenol, as well as 20 mU DHODH. The volume activity of the recombinant enzyme used was 30 U/ml. Measurements were conducted in 50 mM TrisHCl (150 mM KCl, 0,1% Triton X-100, pH. 8,0) at 30° C. in a final volume of 1 ml. The components were mixed, and the reaction was started by adding dihydroorotate. The course of reaction was followed by spectrophotometrically measuring the decrease in absorption at 600 nm for 2 min.

reactant | dihydroorotate | 100 μM | C(C1CC(=O)NC(=O)N1)(=O)[O-]
reactant | 2,6-dichloroindophenol | 60 μM | C1=CC(=O)C=CC1=NC2=CC(=C(C(=C2)Cl)O)Cl | C12H7Cl2NO2
reactant | KCl | 150 mM | [Cl-].[K+]
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
solvent | TrisHCl | 50 mM | C(C(CO)(CO)N)O.Cl
product | 2,5-dihydro furan 3,4-dicarboxylic acid | O1CC(=C(C1)C(=O)O)C(=O)O | C6H6O5
